US07060697B2
To a solution of 1-[4-(2-trifluoromethyl-biphenyl-4-ylsulfanylmethyl)-benzyl]-azetidine-3-carboxylic acid methyl ester (129 mg, 0.2736 mmol, 1 eq.) in a mixture of MeOH (5 mL) and H2O (0.5 mL) is added LiOH—H2O (23 mg, 0.5472 mmol, 2 eq.). The mixture is stirred at room temperature for 3 h. After concentration, the crude product is purified by preparative RP LC-MS to give 1-[4-(2-Trifluoromethyl-biphenyl-4-ylsulfanylmethyl)-benzyl]-azetidine-3-carboxylic acid: 1H NMR (CD3OD, 400 MHz) δ7.61 (s, 1H), 7.60 (d, 1H), 7.56 (d, 2H), 7.46–7.39 (m, 6H), 7.29 (d, 2H), 4.42 (s, 2H), 4.35 (s, 2H), 4.31 (d, 4H), 3.73–3.61 (m, 1H); MS (ES+): (458.1, M+1)+.

reactant | 1-[4-(2-trifluoromethyl-biphenyl-4-ylsulfanylmethyl)-benzyl]-azetidine-3-carboxylic acid methyl ester | 0.2736 mmol, 129 mg, 1 eq. | COC(=O)C1CN(C1)CC1=CC=C(C=C1)CSC1=CC(=C(C=C1)C1=CC=CC=C1)C(F)(F)F | C26H24F3NO2S
reactant | LiOH—H2O | 0.5472 mmol, 23 mg, 2 eq. | O[Li].O
solvent | MeOH | 5 mL | CO | CH4O
solvent | H2O | 0.5 mL | O | H2O
product | 1-[4-(2-Trifluoromethyl-biphenyl-4-ylsulfanylmethyl)-benzyl]-azetidine-3-carboxylic acid | FC(C1=C(C=CC(=C1)SCC1=CC=C(CN2CC(C2)C(=O)O)C=C1)C1=CC=CC=C1)(F)F | C25H22F3NO2S
